US08106221B2
Step 3. tert-Butyl 3-(2-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)-5-fluorophenyl)-3-oxopropyl(methyl)carbamate
A stirred solution of 2-(2-bromo-4-fluorophenyl)-4,4-dimethyl-4,5-dihydrooxazole (1.2 g, 4.7 mmol) in dry THF (6 mL) was cooled to −78° C. and a solution of tert-buLi (1.7 M in pentane, 5.5 mL, 9.3 mmol) was added drop wise. After 30 min, a solution of tert-butyl 3-(methoxy(methyl)amino)-3-oxopropyl(methyl)carbamate (0.77 g, 3.1 mmol) in dry THF (5 mL) was added. The cooling bath was allowed to warm to −20° C. and the reaction mixture was stirred between −20° C. and 0° C. for 4 h. After warming to room temperature, the mixture was added 0.2N HCl (50 mL). The mixture was extracted with ethyl acetate (2×100 mL). The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography on silica gel (120 g column, 0% ethyl acetate in hexanes to 60% ethyl acetate in hexanes) to give product (0.72 g, 61%). 1H NMR (CDCl3) 7.62 (brs, 1H), 6.88 (t, J=7.5 Hz, 1H), 6.79 (brs, 1H), 3.80-4.00 (m, 2H), 3.30 (t, J=7.0 Hz, 2H), 2.76 (brs, 2H), 2.59 (s, 3H), 1.13 (s, 15H); MS EI m/z 379 (M+H)+.

reactant | 2-(2-bromo-4-fluorophenyl)-4,4-dimethyl-4,5-dihydrooxazole | 4.7 mmol, 1.2 g | BrC1=C(C=CC(=C1)F)C=1OCC(N1)(C)C | C11H11BrFNO
reactant | tert-butyl 3-(methoxy(methyl)amino)-3-oxopropyl(methyl)carbamate | 3.1 mmol, 0.77 g | CON(C(CCN(C(OC(C)(C)C)=O)C)=O)C | C11H22N2O4
reactant | HCl | 0.2N, 50 mL | Cl | ClH
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-Butyl 3-(2-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)-5-fluorophenyl)-3-oxopropyl(methyl)carbamate | 0.72 g, 61% | CC1(N=C(OC1)C1=C(C=C(C=C1)F)C(CCN(C(OC(C)(C)C)=O)C)=O)C | C20H27FN2O4
